US07141562B2
In a dry roundbottom flask, 4-(3-amino-2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (293 mg., 1 mmol) was dissolved in dry THF (3 mL) under nitrogen. While stirring, chloro-methanesulfonyl chloride (149 mg., 1 mmol) was added dropwise over 10 minutes and the solution was stirred 30 minutes. Pyridine (0.121 mL., 1.5 mmol) was then added dropwise over 5 minutes and the solution was stirred for 18 hours. The reaction mixture was diluted with 40 mL Et2O and washed with 40 mL of 10% aqueous HCl, 50 mL water, and 50 mL brine. The organic fraction was dried over MgSO4 and concentrated in vacuo. The residue is purified by flash chromatography (20% to 40% EtOAc in hexanes) to give 190 mg of 4-(3-Chloromethanesulfonylamino-2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester as an amber oil (45%). (M−H)−=404.

reactant | 4-(3-amino-2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 1 mmol, 293 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)N)O | C15H23N3O3
reactant | chloro-methanesulfonyl chloride | 1 mmol, 149 mg | ClCS(=O)(=O)Cl | CH2Cl2O2S
reactant | Pyridine | 1.5 mmol, 0.121 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | Et2O | 40 mL | CCOCC | C4H10O
product | 4-(3-Chloromethanesulfonylamino-2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 190 mg, 45% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)NS(=O)(=O)CCl)O | C16H24ClN3O5S
